US07268230B2
A solution of 7-(3-(4-acetylpiperazin-1-yl)propoxy)-4-chloro-6-methoxyquinazoline (0.285 g, 0.753 mmol), 5-hydroxy-7-azaindole (0.111 g, 0.828 mmol), (prepared as described for the starting material in Example 2), and potassium carbonate (0.114 g, 0.828 mmol) in DMF (1.6 ml) was stirred and heated at 95° C. under nitrogen for 3 hours. The mixture was cooled and filtered and the filtrate was evaporated. The residue was purified by column chromatography eluting with increasingly polar mixtures of methylene chloride and methanol (saturated with ammonia). The fractions containing the expected product were combined and evaporated and the residue was triturated under diethyl ether, filtered and dried under vacuum to give 7-(3-(4-acetylpiperazin-1-yl)propoxy)-4-(7-azaindol-5-yloxy)-6-methoxyquinazoline (0.225 g, 62%).

reactant | 7-(3-(4-acetylpiperazin-1-yl)propoxy)-4-chloro-6-methoxyquinazoline | 0.753 mmol, 0.285 g | C(C)(=O)N1CCN(CC1)CCCOC1=C(C=C2C(=NC=NC2=C1)Cl)OC | C18H23ClN4O3
reactant | 5-hydroxy-7-azaindole | 0.828 mmol, 0.111 g | OC=1C=C2C=CNC2=NC1 | C7H6N2O
reactant | potassium carbonate | 0.828 mmol, 0.114 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1.6 ml | CN(C)C=O | C3H7NO
product | 7-(3-(4-acetylpiperazin-1-yl)propoxy)-4-(7-azaindol-5-yloxy)-6-methoxyquinazoline | 0.225 g, 62% | C(C)(=O)N1CCN(CC1)CCCOC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C=CNC2=NC1)OC | C25H28N6O4
